US09302996B2
A mixture in which methylene chloride (10 mL) and a saturated brine (10 mL) were added to methyl 3-{[5-(4-carbamimidoyl-3-fluorophenyl)-4-methylpyridin-2-yl]oxy}-2,2-dimethylpropanoate acetic acid salt (300 mg), 1-bromo-3-cyclopropylpropan-2-one (190 mg) and potassium carbonate (346 mg) was stirred at 40° C. for 5 hours. The organic layer was separated, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=100:0 to 97:3) to obtain methyl 3-[(5-{4-[5-(cyclopropylmethyl)-1H-imidazol-2-yl]-3-fluorophenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoate (248 mg).

reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
reactant | methyl 3-{[5-(4-carbamimidoyl-3-fluorophenyl)-4-methylpyridin-2-yl]oxy}-2,2-dimethylpropanoate acetic acid salt | 300 mg | C(C)(=O)O.C(N)(=N)C1=C(C=C(C=C1)C=1C(=CC(=NC1)OCC(C(=O)OC)(C)C)C)F
reactant | 1-bromo-3-cyclopropylpropan-2-one | 190 mg | BrCC(CC1CC1)=O | C6H9BrO
reactant | potassium carbonate | 346 mg | C([O-])([O-])=O.[K+].[K+]
solvent | brine | 10 mL | [Cl-].[Na+].O
product | methyl 3-[(5-{4-[5-(cyclopropylmethyl)-1H-imidazol-2-yl]-3-fluorophenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoate | 248 mg | C1(CC1)CC1=CN=C(N1)C1=C(C=C(C=C1)C=1C(=CC(=NC1)OCC(C(=O)OC)(C)C)C)F | C25H28FN3O3
